US07276516B2
N-(4-Fluoro-benzyl)-4-(3-morpholin-4-yl-indazole-1-sulfonyl)-benzamide
Dissolve 4-(3-chloro-indazole-1-sulfonyl)-N-(4-fluoro-benzyl)-benzamide (91 mg, 0.20 mmol) in morpholine (1.0 mL) and stir at 100° C. overnight. Dilute the solution with EtOAc (30 mL) and wash with 1N HCl (11 mL), water (10 mL), and satd NaHCO3 (10 mL). Dry, filter and concentrate the organic solution and purify the residue by flash chromatography, using a linear gradient of 20% to 80% EtOAc/hexanes, to give the title compound as a white foam (17 mg, 34%). MS (ES) 495.0 (M+1)+, 493.1 (M−1)−.

reactant | 4-(3-chloro-indazole-1-sulfonyl)-N-(4-fluoro-benzyl)-benzamide | 0.20 mmol, 91 mg | ClC1=NN(C2=CC=CC=C12)S(=O)(=O)C1=CC=C(C(=O)NCC2=CC=C(C=C2)F)C=C1 | C21H15ClFN3O3S
reactant | morpholine | 1.0 mL | N1CCOCC1 | C4H9NO
solvent | EtOAc | 30 mL | CCOC(=O)C | C4H8O2
product | N-(4-Fluoro-benzyl)-4-(3-morpholin-4-yl-indazole-1-sulfonyl)-benzamide | 17 mg, 34% | FC1=CC=C(CNC(C2=CC=C(C=C2)S(=O)(=O)N2N=C(C3=CC=CC=C23)N2CCOCC2)=O)C=C1 | C25H23FN4O4S
